US08420655B2
To a solution of [5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-methanol (78 mg, 0.35 mmol) in CH2Cl2 (5.0 mL) is added MnO2 (125 mg, 1.22 mmol). The reaction mixture is stirred at room temperature for 16 hours and is filtered through diatomaceous earth. The filtrate is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 40% EtOAc in heptanes as the eluent to afford 5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde (27 mg, 35%).

reactant | [5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-methanol | 0.35 mmol, 78 mg | ClC=1C=CC(=C(C1)CO)C1=NC(=NO1)C | C10H9ClN2O2
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 1.22 mmol, 125 mg | O=[Mn]=O
product | 5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde | 27 mg, 35% | ClC=1C=CC(=C(C=O)C1)C1=NC(=NO1)C | C10H7ClN2O2
